US08124299B2
1-(trimethylsilylethynyl)-4-(3,5-dimethoxyphenylethynyl)benzene.
Into a 100 ml round bottom flask was placed a mixture of 1.31 g (0.0081 mole) of 3.5-dimethoxyphenylacetylene, 2.25 g (0.0075 mole) of 4-iodophenyl-trimethylsilylacetylene, 0.016 g (0.084 mmole) of CuI, 0.155 g (0.22 mmole) of bis(triphenylphosphine)palladium(II) dichloride in 15 ml of THF and 15 ml of triethylamine. The light brown solution turned to a suspension within a minute. After ˜40 min, the reaction mixture turned to an orange solution with some white ppt. The reaction was followed by TLC. The mixture was stirred at room temperature under nitrogen overnight. TLC showed presence of staring material still. The reaction was stirred continuously overnight at room temp. Not much further reaction had occurred. It was then stirred overnight at 50° C. TLC indicated that only a trace of starting material was present. The reaction was then terminated and the reaction mixture was filtered and the filtrate concentrated under reduced pressure. The residue was redissolved in 15 ml of chloroform and the solution was washed two times with water (15 ml each) and dried over anhydrous MgSO4, filtered and concentrated. 2.27 g (90.4% yield) of solid was obtained. 1HNMR: 0.26 ppm (s, 9H); 3.83 ppm (s, 6H); 6.49 ppm (s, 1H); 6.70 ppm (s, 2H); 7.47 ppm (s, 4H).

reactant | 3.5-dimethoxyphenylacetylene | 0.0081 mole, 1.31 g | COC=1C=C(C=C(C1)OC)C#C | C10H10O2
reactant | 4-iodophenyl-trimethylsilylacetylene | 0.0075 mole, 2.25 g | IC1=CC=C(C=C1)C#C[Si](C)(C)C | C11H13ISi
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
catalyst | CuI | 0.084 mmole, 0.016 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.22 mmole, 0.155 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(trimethylsilylethynyl)-4-(3,5-dimethoxyphenylethynyl)benzene | 2.27 g, 90.4% yield | C[Si](C)(C)C#CC1=CC=C(C=C1)C#CC1=CC(=CC(=C1)OC)OC | C21H22O2Si
